US06297250B1
2,6-Di(3′-hydroxypropoxy)-4,8-dipiperidinopyrimidopyrimidine (NU3085)
1,3-Propane diol (0.73 ml, 10 mmol) was dissolved in dry THF (10 ml), added to sodium hydride (0.24 g, 10 mmol) and the mixture was stirred at room temperature for 6 hours 2,6-dichloro-4,8-dipiperidinopyrimidopyrimidine (0.184 g, 0.5 mmol) in dry THF (25 ml) was added and the mixture heated under reflux 72 hours. After cooling to room temperature, water (30 ml) was added and the product extracted into ethyl acetate (4×20 ml). The organic layers were combined, dried (MgSO4), filtered and solvent removed in vacuo. Purification was carried out by column chromatography on silica gel, with dichloromethane: methanol (95:5) as eluent. Subsequent recrystallisation from methanol/water gave the title compound as a cream solid (0.115 g, 51%), m.p. 154-156° C. Found: C, 59.23; H, 7.72; N, 18.79. C22H34N6O4 requires C, 59.17; H, 7.67; N, 18.82%.

reactant | 1,3-Propane diol | 10 mmol, 0.73 ml | C(CCO)O | C3H8O2
reactant | sodium hydride | 10 mmol, 0.24 g | [H-].[Na+]
reactant | 2,6-dichloro-4,8-dipiperidinopyrimidopyrimidine | 0.5 mmol, 0.184 g | ClC=1N=C(C2=C(C(=NC(=N2)Cl)N2CCCCC2)N1)N1CCCCC1 | C16H20Cl2N6
reactant | water | 30 ml | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 2,6-Di(3′-hydroxypropoxy)-4,8-dipiperidinopyrimidopyrimidine | 0.115 g, 51% | OCCCOC=1N=C(C2=C(C(=NC(=N2)OCCCO)N2CCCCC2)N1)N1CCCCC1 | C22H34N6O4
